US08536343B2
Into a solution of 50.0 g of 3-(4-cyanophenoxy)propyl methanesulfonate in 250 mL of N,N-dimethylformamide, 32.5 g of potassium iodide, 32.9 g of sodium bicarbonate and 37.0 g of 3-(4-piperidinyl)-1-propanol hydrochloride were added at room temperature, which was then stirred at 70° C. for 7 hours. To the reaction mixture, after being cooled down to room temperature, 250 mL of water and 150 mL of toluene were added, and then hydrochloric acid was added to adjust the pH to 1.0. The aqueous layer was separated, adjusted to pH 10.0 with a 20% sodium hydroxide aqueous solution, and stirred at room temperature for 15 min and under cooling on ice for 30 min. The solid matter was collected by filtration and washed twice with 50 mL of water and twice with 50 mL of toluene to obtain 52.3 g of 4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzonitrile monohydrate as a white solid.

reactant | 3-(4-cyanophenoxy)propyl methanesulfonate | 50.0 g | CS(=O)(=O)OCCCOC1=CC=C(C=C1)C#N | C11H13NO4S
reactant | potassium iodide | 32.5 g | [I-].[K+]
reactant | sodium bicarbonate | 32.9 g | C([O-])(O)=O.[Na+]
reactant | 3-(4-piperidinyl)-1-propanol hydrochloride | 37.0 g | Cl.N1CCC(CC1)CCCO
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 250 mL | O | H2O
product | 4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzonitrile monohydrate | 52.3 g | O.OCCCC1CCN(CC1)CCCOC1=CC=C(C#N)C=C1 | InChI=1S/C18H26N2O2.H2O/c19-15-17-4-6-18(7-5-17)22-14-2-10-20-11-8-16(9-12-20)3-1-13-21;/h4-7,16,21H,1-3,8-14H2;1H2
